US09145380B2
4-[[3-(3,4-Dichlorophenyl)phenyl]sulfonylamino]-3-sulfamoyl-benzamide
To a solution of 4-[[3-(3,4-dichlorophenyl)phenyl]sulfonylamino]-3-sulfamoylbenzoic acid (0.20 g, 0.39 mmol) in DMF (5 mL) was added carbonyldiimidazole (0.06 g, 0.39 mmol). The reaction mixture was heated at 80° C. for 2 h, then aqueous ammonia solution (30%, 2 mL) was added and the resulting solution was stirred at RT for 2 h. The pH of the reaction mixture was then adjusted to pH 5 using 6N HCl and the resulting white precipitate was collected by filtration. The crude product was purified by preparative HPLC to afford the title compound (13 mg, 7%).

reactant | 4-[[3-(3,4-dichlorophenyl)phenyl]sulfonylamino]-3-sulfamoylbenzoic acid | 0.39 mmol, 0.20 g | ClC=1C=C(C=CC1Cl)C=1C=C(C=CC1)S(=O)(=O)NC1=C(C=C(C(=O)O)C=C1)S(N)(=O)=O | C19H14Cl2N2O6S2
reactant | carbonyldiimidazole | 0.39 mmol, 0.06 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonia | 2 mL | N | H3N
reactant | HCl | 6N | Cl | ClH
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-[[3-(3,4-Dichlorophenyl)phenyl]sulfonylamino]-3-sulfamoyl-benzamide | 13 mg, 7% | ClC=1C=C(C=CC1Cl)C=1C=C(C=CC1)S(=O)(=O)NC1=C(C=C(C(=O)N)C=C1)S(N)(=O)=O | C19H15Cl2N3O5S2
